US04925591
In a mixed solvent of dichloromethane and tetrahydrofuran was dissolved 5 g of p-bromomethylbenzoic acid, and 10 g of dihydropyran and 585 mg of pyridinium p-toluenesulfonate were added to the solution and the mixture was stirred at room temperature for 6 hours. The thus-obtained solution was washed with a saturated aqueous solution of NaHCO3 and a saturated aqueous solution of sodium chloride, dried on anhydrous magnesium sulfate and concentrated. The concentrate was recrystallized from a mixed solvent of n-hexane, ethyl acetate and chloroform to obtain 3.8 g of tetrahydropyranyl p-bromomethylbenzoate.

reactant | p-bromomethylbenzoic acid | 5 g | BrCC1=CC=C(C(=O)O)C=C1 | C8H7BrO2
reactant | dihydropyran | 10 g | O1CCCC=C1 | C5H8O
reactant | pyridinium p-toluenesulfonate | 585 mg | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | tetrahydropyranyl p-bromomethylbenzoate | 3.8 g | BrCC1=CC=C(C(=O)OC2OCCCC2)C=C1 | C13H15BrO3
